US05391566
Step D: Preparation of 1-[4-(1-carboethoxy-1-(3-methylphenyl)methoxy)-3,5-dipropylphenylmethyl]-2-benzimidazolinone
To a suspention of 4 mg (0.17 mmol) of sodium hydride in 1.0 mL of DMF was added 75 mg (0.17 mmol) of (3H)-benzimidazolone and the reaction mixture was stirred for 20 minutes. 75 mg (0.17 mmol) of 4-(1-carbomethoxy-1-(3-methylphenyl)methoxy)-3,5-dipropylbenzylbromide in 1.0 mL of DMF was added and the reaction mixture was stirred at room is temperature overnight. The reaction mixture was poured into ethyl acetate and washed with water and then brine. The organic layer was dried over sodium sulfate, decanted and concentrated. Purification by flash chromatography (silica gel, hexane/ethyl acetate 2:1) provided 41 mg of a dialkylated compound and 16 mg (0.03 mmol) of the title compound.

reactant | sodium hydride | 0.17 mmol, 4 mg | [H-].[Na+]
reactant | (3H)-benzimidazolone | 0.17 mmol, 75 mg | N1C(NC2=C1C=CC=C2)=O | C7H6N2O
reactant | 4-(1-carbomethoxy-1-(3-methylphenyl)methoxy)-3,5-dipropylbenzylbromide | 0.17 mmol, 75 mg | C(=O)(OC)C(OC1=C(C=C(CBr)C=C1CCC)CCC)C1=CC(=CC=C1)C | C23H29BrO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 1-[4-(1-carboethoxy-1-(3-methylphenyl)methoxy)-3,5-dipropylphenylmethyl]-2-benzimidazolinone | 0.03 mmol, 16 mg | C(=O)(OCC)C(OC1=C(C=C(C=C1CCC)CN1C(NC2=C1C=CC=C2)=O)CCC)C2=CC(=CC=C2)C | C31H36N2O4
